US06465504B1
4-[3,5-Bis(2-hydroxy-5-methylphenyl)-[1,2,4]triazol-1-yl]benzoic acid
1.15 g of 2-(6-hydroxy-m-tolyl)-6-methyl-4H-[1,3]benzoxazin-4-one in [CAS-Reg.-No.:24798-62-7] and 0.6 g of 4-hydrazinobenzoic acid are boiled under reflux for 2 h in 15 ml of ethanol. The crystals precipitating on cooling are crystallized from isopropanol. After drying, 4-[3,5-bis(2-hydroxy-5-methylphenyl)-[1,2,4]triazol-1-yl]benzoic acid remains as colorless crystals of m.p. 268-269-269° C.

reactant | 2-(6-hydroxy-m-tolyl)-6-methyl-4H-[1,3]benzoxazin-4-one | 1.15 g | OC1=CC=C(C=C1C)C=1OC2=C(C(N1)=O)C=C(C=C2)C | C16H13NO3
reactant | 4-hydrazinobenzoic acid | 0.6 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | ethanol | 15 ml | C(C)O | C2H6O
product | 4-[3,5-Bis(2-hydroxy-5-methylphenyl)-[1,2,4]triazol-1-yl]benzoic acid | OC1=C(C=C(C=C1)C)C1=NN(C(=N1)C1=C(C=CC(=C1)C)O)C1=CC=C(C(=O)O)C=C1 | C23H19N3O4
